US06355642B1
4-Methoxy-4-phenylpiperidine
1-t-Butoxycarbonyl-4-methoxy-4-phenylpiperidine (150 mg, 0.51 mmol) was dissolved in a mixed solvent of 1,4-dioxane (20 ml) and concentrated hydrochloric acid (10 ml). The resulting solution was stirred at 0° C. for a while and then gradually returned to a room temperature spending 1.5 hours. The reaction solution was neutralized by adding with sodium hydroxide aqueous solution (1 N), and then the solvent was evaporated under a reduced pressure. The thus obtained residue was mixed with ethyl acetate and water, the reaction product was extracted with ethyl acetate, washed with water and saturated brine and dried with anhydrous sodium sulfate. Then the solvent was evaporated under a reduced pressure was separated and purified by a silica gel column chromatography to obtain 49 mg of the title compound (0.25 mmol, 49% in yield).

reactant | 1-t-Butoxycarbonyl-4-methoxy-4-phenylpiperidine | 0.51 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC | C17H25NO3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4-Methoxy-4-phenylpiperidine | 0.25 mmol, 49 mg, 49% | COC1(CCNCC1)C1=CC=CC=C1 | C12H17NO
